US05244771
A mixture of 16 g of 3-bromoaniline, 15 g magnesium oxide and 31.8 g benzylbromide in 100 mL dry dimethylformamide was stirred for 47 hours at room temperature, under nitrogen. The precipitated magnesium salts were filtered. The filtrate was diluted with water and extracted with ether. The ether extracts were combined, washed with water and dried over anhydrous sodium sulfate. The sodium sulfate was filtered and the ether evaporated in vacuo to give a brownish solid. The brownish solid was recrystallized from isopropanol to yield 20.75 g of N,N-dibenzyl-3-bromoaniline as a white solid. The structure was confirmed by NMR.

reactant | 3-bromoaniline | 16 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | magnesium oxide | 15 g | [O-2].[Mg+2]
reactant | benzylbromide | 31.8 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | N,N-dibenzyl-3-bromoaniline | 20.75 g | C(C1=CC=CC=C1)N(C1=CC(=CC=C1)Br)CC1=CC=CC=C1 | C20H18BrN
